US07737149B2
N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(4-methylpiperazin-1-yl)pyrazine-2-carboxamide
NaHMDS (1M solution in THF, 0.645 ml, 0.644 mmol, 1.5 eq) was added dropwise to a stirred suspension of tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate (150 mg, 0.429 mmol, 1 eq) and methyl 5-(4-methylpiperazin-1-yl)pyrazine-2-carboxylate (122 mg, 0.515 mmol, 1.2 eq) in dry THF (2.5 ml) under nitrogen. The reaction mixture was stirred at room temperature for 50 min, then neutralised with satd aq NH4Cl and diluted with water (5 ml). The aqueous phase was extracted with ethyl acetate (3×8 ml) and the combined organic extracts were dried over MgSO4, filtered and evaporated. The residual solid was purified by reverse-phase prep. HPLC using a gradient of 31-51% acetonitrile in water containing 1% ammonium hydroxide to afford the product as a white solid (88 mg, 45%).

reactant | NaHMDS | 0.644 mmol, 1M, 0.645 ml, 1.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate | 0.429 mmol, 150 mg, 1 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)OCC1=CC(=CC(=C1)OC)OC | C17H23N3O5
reactant | methyl 5-(4-methylpiperazin-1-yl)pyrazine-2-carboxylate | 0.515 mmol, 122 mg, 1.2 eq | CN1CCN(CC1)C=1N=CC(=NC1)C(=O)OC | C11H16N4O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(4-methylpiperazin-1-yl)pyrazine-2-carboxamide | 88 mg, 45% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1CCN(CC1)C | C22H27N7O4
